US04863958
A solution of 2-(p-methoxybenzoyl)-3-methyl-4-hydroxy-5-chloro-7-propylbenzofuran (90 mg; 0.25 mmole), hydrazine (80 μl) and potassium hydroxide (98 mg) in ethylene glycol (2 mL) was heated at 145° C. for a period of 5 hours. The reaction mixture was cooled, poured in water, and extracted with ether. The organic phase was washed with 20% citric acid, with brine, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel using 20% ethylacetate in hexane as eluent to yield 47 mg (50%) of 2-(p-methoxybenzyl) 3-methyl-4hydroxy-5-chloro-7-propylbenzofuran.

reactant | 2-(p-methoxybenzoyl)-3-methyl-4-hydroxy-5-chloro-7-propylbenzofuran | 0.25 mmole, 90 mg | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=C(C=C3CCC)Cl)O)C=C1 | C20H19ClO4
reactant | hydrazine | 80 μl | NN | H4N2
reactant | potassium hydroxide | 98 mg | [OH-].[K+]
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 2-(p-methoxybenzyl) 3-methyl-4hydroxy-5-chloro-7-propylbenzofuran | 47 mg, 50% | COC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3CCC)Cl)O)C=C1 | C20H21ClO3
